US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-5-methyl-7-methoxy-imidazo[4,5-d]pyridazin-4(5H)-one
The procedure of Example 34 was repeated except that 1-[4-(4-chlorobenzoyl)benzyl]-5-methyl-7-chloroimidazo[4,5-d]pyridazin-4(5H)-one was used as the starting compound. Thus, this starting compound (52 mg) was dissolved in methanol (5 ml) followed by addition of 28% sodium methoxide/methanol (0.5 ml), and the mixture was refluxed for 3 hours. To this reaction mixture was added a large quantity of water and the resulting crystals were rinsed with water and dried under reduced pressure to provide 20 mg (yield 39%) of the title compound. 1H-NMR (CD3OD) δ: 3.73(3H,s), 3.97(3H,s), 5.70(2H,s), 7.41(2H,d,J=8.4Hz), 7.51(2H,d,J=8.8Hz), 7.73(2H,d,J=8.6Hz), 7.76(2H,d,J=8.2Hz), 8.36(1H,s).

reactant | 1-[4-(4-chlorobenzoyl)benzyl]-5-methyl-7-chloroimidazo[4,5-d]pyridazin-4(5H)-one | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C(=NN(C4=O)C)Cl)C=C2)C=C1 | C20H14Cl2N4O2
reactant | sodium methoxide methanol | 0.5 ml | C[O-].[Na+].CO
reactant | water | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 1-[4-(4-Chlorobenzoyl)benzyl]-5-methyl-7-methoxy-imidazo[4,5-d]pyridazin-4(5H)-one | 20 mg, yield 39% | ClC1=CC=C(C(=O)C2=CC=C(CN3C=NC4=C3C(=NN(C4=O)C)OC)C=C2)C=C1 | C21H17ClN4O3
